US06440899B1
1-Chloro-2-(8-chloro-4,4-dimethyl-1,1-dioxothiochroman-7-yl)carbonylcyclohex-1-en-3-one (Compound 3.2)
2.0 g (5.2 mmol) of 2-(8-chloro-4,4-dimethyl-1,1-dioxothiochroman-7-yl)carbonyl-1,3-cyclohexanedione were dissolved in 30 ml of methylene chloride and 2.2 g (17.3 mmol) of oxalyl chloride and 2 drops of dimethylformamide were added. After 1 hour of stirring at 25° C., the solvent was removed. This gave 2.1 g of colored crystals.

reactant | 2-(8-chloro-4,4-dimethyl-1,1-dioxothiochroman-7-yl)carbonyl-1,3-cyclohexanedione | 5.2 mmol, 2.0 g | ClC=1C(=CC=C2C(CCS(C12)(=O)=O)(C)C)C(=O)C1C(CCCC1=O)=O | C18H19ClO5S
reactant | oxalyl chloride | 17.3 mmol, 2.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 1-Chloro-2-(8-chloro-4,4-dimethyl-1,1-dioxothiochroman-7-yl)carbonylcyclohex-1-en-3-one | ClC1=C(C(CCC1)=O)C(=O)C1=CC=C2C(CCS(C2=C1Cl)(=O)=O)(C)C | C18H18Cl2O4S
